US09334279B2
To a 2 dram vial equipped with a stir bar was added 2-(4,6-dichloropyridin-2-yl)thiazole (50 mg, 0.22 mmol), 2-isopropoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (85 mg, 0.33 mmol), Pd(dppf)Cl2 (8.0 mg, 11 μmol) and K3PO4 (344 mg, 1.62 mmol). The vial was capped with a septum screw-cap and then placed under N2 atmosphere. To the vial was added THF (1 mL) and water (0.50 mL). The mixture was placed in a 60° C. oil bath with stirring for 6 h. The reaction mixture was diluted with EtOAc (4 mL) and the aqueous phase was decanted away. The organic phase was diluted with EtOAc to a volume of 40 mL. The solution was dried over MgSO4; filtered; then concentrated in vacuo to afford a dark residue. This material was subjected to silica gel chromatography (hexanes:EtOAc, 100:0 to 85:15) to afford 2-(4-chloro-6′-isopropoxy-[2,3′-bipyridin]-6-yl)thiazole as a white solid (34 mg, 47%). 1H-NMR (400 MHz, CDCl3) δ 8.92-8.87 (m, 1H), 8.32-8.25 (m, 1H), 8.13 (d, J=1.8 Hz, 1H), 7.96 (d, J=3.0 Hz, 1H), 7.68 (d, J=1.8 Hz, 1H), 7.50 (d, J=3.0 Hz, 1H), 6.82 (dd, J=8.8, 0.5 Hz, 1H), 5.41 (spt, J=6.2 Hz, 1H), 1.41 (d, J=6.3 Hz, 6H).

reactant | 2-(4,6-dichloropyridin-2-yl)thiazole | 0.22 mmol, 50 mg | ClC1=CC(=NC(=C1)Cl)C=1SC=CN1 | C8H4Cl2N2S
reactant | 2-isopropoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.33 mmol, 85 mg | C(C)(C)OC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H22BNO3
reactant | K3PO4 | 1.62 mmol, 344 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 11 μmol, 8.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.50 mL | O | H2O
product | 2-(4-chloro-6′-isopropoxy-[2,3′-bipyridin]-6-yl)thiazole | 34 mg, 47% | ClC1=CC(=NC(=C1)C=1SC=CN1)C=1C=NC(=CC1)OC(C)C | C16H14ClN3OS
